US06110929
A round bottom flask was charged with 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylic acid (34.1 g, 0.132 mol) and then heated in a Wood's metal bath for 5 minutes during which time carbon dioxide evolution was observed and the material changed from a solid to a liquid. After 5 minutes no further gas evolution was noted so the flask was removed from the bath and allowed to cool to ambient temperature. The resulting solid was isolated by filtration to provide 27.75 g of 7-(trifluoromethyl)-4-quinolinol.

reactant | 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylic acid | 0.132 mol, 34.1 g | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)O | C11H6F3NO3
reactant | carbon dioxide | C(=O)=O | CO2
product | 7-(trifluoromethyl)-4-quinolinol | 27.75 g | FC(C1=CC=C2C(=CC=NC2=C1)O)(F)F | C10H6F3NO
